US07608621B2
N-{[2-[(2-Chlorophenyl)methyl]-6-(1,1-dimethylethyl)-5-hydroxy-3-oxo-2,3-dihydro-4-pyridazinyl]carbonyl}glycine
Ethyl 6-(1,1-dimethylethyl)-5-hydroxy-3-oxo-2,3-dihydro-4-pyridazinecarboxylate. KOtBu (1M solution in t-BuOH, 9.4 mL, 9.38 mmol) was added to the compound from example 45b) (1.79 g, 6.25 mmol). The reaction was heated in the microwave at 150° C. for 20 minutes. The reaction was cooled and H2O was added followed by 1N HCl to precipitate the product. The solid was filtered to give the title compound (1.04 g, 69%). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.73 (s, 1H) 12.64 (s, 1H) 4.30 (q, J=7.07 Hz, 2H) 1.30 (s, 9H) 1.28 (t, J=7.20 Hz, 3H).

reactant | Ethyl 6-(1,1-dimethylethyl)-5-hydroxy-3-oxo-2,3-dihydro-4-pyridazinecarboxylate | CC(C)(C)C=1C(=C(C(NN1)=O)C(=O)OCC)O | C11H16N2O4
reactant | KOtBu | 9.38 mmol, 1M, 9.4 mL | CC(C)(C)[O-].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | H2O | O | H2O
product | N-{[2-[(2-Chlorophenyl)methyl]-6-(1,1-dimethylethyl)-5-hydroxy-3-oxo-2,3-dihydro-4-pyridazinyl]carbonyl}glycine | 1.04 g, 69% | ClC1=C(C=CC=C1)CN1N=C(C(=C(C1=O)C(=O)NCC(=O)O)O)C(C)(C)C | C18H20ClN3O5
